US07160889B2
7-(2-Hydroxy-3-(pyrrolidin-1-yl)propoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (7.8 g) was stirred for 48 hours in a solution of methanol saturated with ammonia (200 ml). The solvent was evaporated and the solid obtained was washed with ether (2×) and ether/dichloromethane (95:5, 2×100 ml) to give the 7-(2-hydroxy-3-(pyrrolidin-1-yl)propoxy)-6-methoxy-3,4-dihydroquinazolin-4-one (5.5 g).

reactant | 7-(2-Hydroxy-3-(pyrrolidin-1-yl)propoxy)-6-methoxy-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 7.8 g | OC(COC1=C(C=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O)OC)CN1CCCC1 | C22H31N3O6
reactant | ammonia | 200 ml | N | H3N
solvent | methanol | CO | CH4O
product | 7-(2-hydroxy-3-(pyrrolidin-1-yl)propoxy)-6-methoxy-3,4-dihydroquinazolin-4-one | 5.5 g | OC(COC1=C(C=C2C(NC=NC2=C1)=O)OC)CN1CCCC1 | C16H21N3O4
